US04971982
53 mg of copper(I) iodide, 293 mg of triphenylphosphine and 99 mg of palladium(II) chloride were dissolved in 320 ml of diethylamine. 10.4 g of 4-(1,1-dimethyl-2-propynyloxy)benzonitrile and 11.5 g of 2-iodopyridine were added and the mixture was stirred at room temperature under a nitrogen atmosphere for 3 days. Water and ethyl acetate were added and the organic phase was separated, dried over sodium sulphate and evaporated. The residue was chromatographed on silica gel using ethyl acetate/petroleum ether (1:3) and then ethyl acetate/petroleum ether (1:2) for the elution to give 12.98 g of 4-[1,1-dimethyl-3-(2-pyridyl)-2-propynyloxy]benzonitrile in the form of an oil.

reactant | 4-(1,1-dimethyl-2-propynyloxy)benzonitrile | 10.4 g | CC(C#C)(OC1=CC=C(C#N)C=C1)C | C12H11NO
reactant | 2-iodopyridine | 11.5 g | IC1=NC=CC=C1 | C5H4IN
reactant | Water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | diethylamine | 320 ml | C(C)NCC | C4H11N
catalyst | copper(I) iodide | 53 mg | [Cu]I
catalyst | palladium(II) chloride | 99 mg | [Pd](Cl)Cl
catalyst | triphenylphosphine | 293 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | 4-[1,1-dimethyl-3-(2-pyridyl)-2-propynyloxy]benzonitrile | 12.98 g | CC(C#CC1=NC=CC=C1)(OC1=CC=C(C#N)C=C1)C | C17H14N2O
